US05091596
The first two process steps are directed to the hydrolysis of kasugamycin with hydrochloric acid. First, a 30% weight per volume (w/v) solution of kasugamycin hydrochloride in 5 N HCl is produced, e.g., 225 grams of kasugamycin+700 ml of 5 N HCl, and the solution is heated and stirred to yield a clear solution. Second, the solution is heated for eight hours at 90° C. using a forced air oven or the like. The solution does not need to be agitated while it is heated for the eight hours. After the eight hours has expired, the solution will be brown in color.

reactant | kasugamycin | C[C@@H]1[C@H](C[C@@H]([C@H](O1)O[C@H]2[C@@H]([C@H]([C@H]([C@@H]([C@@H]2O)O)O)O)O)N)NC(=N)C(=O)O | C14H25N3O9
reactant | HCl | 5 N | Cl | ClH
product | kasugamycin hydrochloride | C[C@@H]1[C@H](C[C@@H]([C@H](O1)OC2[C@@H]([C@H](C([C@@H]([C@@H]2O)O)O)O)O)N)N=C(C(=O)O)N.Cl | InChI=1S/C14H25N3O9.ClH/c1-3-5(17-12(16)13(23)24)2-4(15)14(25-3)26-11-9(21)7(19)6(18)8(20)10(11)22;/h3-11,14,18-22H,2,15H2,1H3,(H2,16,17)(H,23,24);1H/t3-,4+,5+,6?,7+,8+,9-,10+,11?,14-;/m1./s1
